US09340546B2
Step 2: (S)-tert-butyl 3((3-aminopyridin-4-yl)oxy)piperidine-1-carboxylate
Pd on C, (10%, wet, Degussa) (1 g, 0.9397 mmol) was added to a stirred solution of tert-butyl (3S)-3-[(3-nitro-4-pyridyl)oxy]piperidine-1-carboxylate (2.65 g, 8.196 mmol) in EtOAc (30 mL)/EtOH (15 mL). The reaction was placed under an atmosphere of hydrogen and stirred at ambient temperature for 16 hours. The catalyst was removed by filtration through a pad of celite and the filtrate concentrated in vacuo to give the sub-title compound as an off-white solid (2.46 g, >100% Yield). MS (2ES+) 587.3.

reactant | tert-butyl (3S)-3-[(3-nitro-4-pyridyl)oxy]piperidine-1-carboxylate | 8.196 mmol, 2.65 g | [N+](=O)([O-])C=1C=NC=CC1O[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C15H21N3O5
reactant | EtOH | 15 mL | CCO | C2H6O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pd | [Pd] | Pd
product | (S)-tert-butyl 3((3-aminopyridin-4-yl)oxy)piperidine-1-carboxylate | 2.46 g, >100% Yield | NC=1C=NC=CC1O[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C15H23N3O3
